US05106845
A flask containing 2-methylthio-2,5-dihydro-1H-2,4-benzodiazepine hydroiodide (3.20 g 1.00×10-2 mole) and 2,2-diphenylethylamine (5.91 g, 3.00×10-2 mole) was immersed in an oil bath which had been preheated to ca. 155° C. The reaction was stirred at between 150°-160° C. for ca. 30 minutes. The resulting solid mass was treated with isopropanol and that which did not dissolve was collected by filtration. This guanidine hydroiodide was dissolved in a two phase mixture of 5 molar aqueous NaOH (80 ml) and CH2Cl2 (80 ml). After stirring overnight the CH2Cl2 layer was separated. The aqueous alkaline phase was extracted with CH2Cl2 (2×). The CH2Cl2 layers were combined, washed with H2O (2×), washed with saturated aqueous NaCl, and dried over anhydrous Na2SO4. The drying agent was removed by filtration and the filtrate was evaporated at reduced pressure leaving a foam which was dissolved in methanol (35 ml). The solution was cooled to 0° C. before being treated with a methanolic solution of HCl. The solution was concentrated to ca. 10-15 ml at which point crystallization began. After standing ca. 30 minutes, isopropanol was added and the flask was refrigerated. After 1-1.5 hour the product was collected by filtration. Recrystallization from methanol/isopropanol afforded 3-(2,2-diphenylethylamino)-2,5-dihydro-1H-2,4-benzodiazepine hydrochloride as colorless crystals: 2.53 g (67%), m.p. 243°-245° C.

reactant | 2-methylthio-2,5-dihydro-1H-2,4-benzodiazepine hydroiodide | 1.00×10-2 mole, 3.20 g | I.CSN1C=NCC2=C(C1)C=CC=C2
reactant | 2,2-diphenylethylamine | 3.00×10-2 mole, 5.91 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | HCl | Cl | ClH
solvent | methanol | 35 ml | CO | CH4O
product | 3-(2,2-diphenylethylamino)-2,5-dihydro-1H-2,4-benzodiazepine hydrochloride | Cl.C1(=CC=CC=C1)C(CNC1=NCC2=C(CN1)C=CC=C2)C2=CC=CC=C2 | InChI=1S/C23H23N3.ClH/c1-3-9-18(10-4-1)22(19-11-5-2-6-12-19)17-26-23-24-15-20-13-7-8-14-21(20)16-25-23;/h1-14,22H,15-17H2,(H2,24,25,26);1H
